.title KiCad schematic
.include "/Users/benny/projects/microclimate-sensor/ultrasonic_anenometer/snom097b/LMP7731.LIB"
.include "2N7002.subcircuit"
.include "DDZ9678.spice.txt"
.include "TC4426_Rev2_SPICE_Model.MOD"
.include "opa2322.lib"
.include "xf.subcircuit"
R1 TF_PWR +9V 100
C2 TF_PWR GND 100u
C1 +9V GND 10u
C3 +9V GND 1u
C4 +3V3 GND 4.7u
XU3 Net-_U1-Pad49_ Net-_U3-Pad7_ +9V GND TC4426_I2D_B
C6 +9V GND 4.7u
C5 +9V GND 100n
VBT1 +9V GND dc 9; pwl(0 0 5u 9)
V11 +3V3 GND dc 3.3
CLS1 Net-_C8-Pad1_ GND 2nF
R3 GND Net-_C8-Pad1_ 1.8k
XT1 Net-_M1-Pad3_ TF_PWR Net-_M2-Pad3_ GND Net-_C8-Pad1_ transformer1
XM1 Net-_M1-Pad3_ Net-_M1-Pad1_ GND N7002
XM2 Net-_M2-Pad3_ Net-_M2-Pad1_ GND N7002
C8 Net-_C8-Pad1_ GND 1500p
XU5 /TXRX1_NORTH/TX+ Net-_M1-Pad1_ +9V GND TC4426_I2D_B
R2 /TXRX1_NORTH/RX Net-_C8-Pad1_ 10k
XD1 /TXRX1_NORTH/RX GND DDZ9678
V3 /TXRX1_NORTH/TX+ GND pulse(0 3.3 10us 50n 50n 5u 10u)
V4 /TXRX1_NORTH/TX- GND pulse(0 3.3 20us 50n 50n 5u 10u)
C7 +9V GND 100n
CLS2 Net-_C10-Pad1_ GND 2nF
R5 GND Net-_C10-Pad1_ 1.8k
XT2 Net-_M3-Pad3_ TF_PWR Net-_M4-Pad3_ GND Net-_C10-Pad1_ transformer1
XM3 Net-_M3-Pad3_ Net-_M3-Pad1_ GND N7002
XM4 Net-_M4-Pad3_ Net-_M4-Pad1_ GND N7002
C10 Net-_C10-Pad1_ GND 1500p
XU6 /TXRX2_SOUTH/TX+ Net-_M3-Pad1_ +9V GND TC4426_I2D_B
R4 /TXRX2_SOUTH/RX Net-_C10-Pad1_ 10k
XD2 /TXRX2_SOUTH/RX GND DDZ9678
V5 /TXRX2_SOUTH/TX+ GND pulse(0 3.3 10us 50n 50n 5u 10u)
V6 /TXRX2_SOUTH/TX- GND pulse(0 3.3 20us 50n 50n 5u 10u)
C9 +9V GND 100n
CLS3 Net-_C12-Pad1_ GND 2nF
R7 GND Net-_C12-Pad1_ 1.8k
XT3 Net-_M5-Pad3_ TF_PWR Net-_M6-Pad3_ GND Net-_C12-Pad1_ transformer1
XM5 Net-_M5-Pad3_ Net-_M5-Pad1_ GND N7002
XM6 Net-_M6-Pad3_ Net-_M6-Pad1_ GND N7002
C12 Net-_C12-Pad1_ GND 1500p
XU7 /TXRX3_EAST/TX+ Net-_M5-Pad1_ +9V GND TC4426_I2D_B
R6 /TXRX3_EAST/RX Net-_C12-Pad1_ 10k
XD3 /TXRX3_EAST/RX GND DDZ9678
V7 /TXRX3_EAST/TX+ GND pulse(0 3.3 10us 50n 50n 5u 10u)
V8 /TXRX3_EAST/TX- GND pulse(0 3.3 20us 50n 50n 5u 10u)
C11 +9V GND 100n
CLS4 Net-_C14-Pad1_ GND 2nF
R9 GND Net-_C14-Pad1_ 1.8k
XT4 Net-_M7-Pad3_ TF_PWR Net-_M8-Pad3_ GND Net-_C14-Pad1_ transformer1
XM7 Net-_M7-Pad3_ Net-_M7-Pad1_ GND N7002
XM8 Net-_M8-Pad3_ Net-_M8-Pad1_ GND N7002
C14 Net-_C14-Pad1_ GND 1500p
XU8 /TXRX4_WEST/TX+ Net-_M7-Pad1_ +9V GND TC4426_I2D_B
R8 /TXRX4_WEST/RX Net-_C14-Pad1_ 10k
XD4 /TXRX4_WEST/RX GND DDZ9678
V9 /TXRX4_WEST/TX+ GND pulse(0 3.3 10us 50n 50n 5u 10u)
V10 /TXRX4_WEST/TX- GND pulse(0 3.3 20us 50n 50n 5u 10u)
C13 +9V GND 100n
C16 /amplifier/VDD_RX GND 4.7u
C21 Net-_C21-Pad1_ GND 4.7u
R13 Net-_C25-Pad1_ Net-_C25-Pad2_ 43k
R11 Net-_C22-Pad1_ Net-_C22-Pad2_ 16k
C19 Net-_C19-Pad1_ /amplifier/RX_IN 10u
C25 Net-_C25-Pad1_ Net-_C25-Pad2_ 1p
C22 Net-_C22-Pad1_ Net-_C22-Pad2_ 1p
R10 Net-_C22-Pad2_ Net-_C19-Pad1_ 2.2k
C18 /amplifier/VDD_RX GND 100n
R15 /amplifier/RX_OUT Net-_C26-Pad2_ 43k
R14 Net-_C26-Pad2_ Net-_C25-Pad1_ 4.3k
C26 /amplifier/RX_OUT Net-_C26-Pad2_ 1p
XU9 Net-_C25-Pad1_ Net-_C25-Pad2_ Net-_C21-Pad1_ GND Net-_C21-Pad1_ Net-_C26-Pad2_ /amplifier/RX_OUT /amplifier/VDD_RX opa2322
C24 /amplifier/VDD_RX GND 4.7u
C23 /amplifier/VDD_RX GND 100n
V2 /amplifier/RX_IN GND ac 1 pwl(0 0 5u 0 6u 3m 10u 3m 11u -3m 15u -3m 16u 0)
V1 /amplifier/VDD_RX GND dc 5
XU12 Net-_C21-Pad1_ Net-_C22-Pad2_ /amplifier/VDD_RX GND Net-_C22-Pad1_ LMP7731
R12 Net-_C25-Pad2_ Net-_C22-Pad1_ 4.3k
C15 GND +9V 1u
C17 GND Net-_C17-Pad2_ 100n
C20 GND /amplifier/VDD_RX 100n
V12 Net-_C21-Pad1_ GND dc 1.65
.tran 100n 101u 
.end
